US05668161
A solution of 1-(4-fluorophenyl)-2-(4-methylthiophenyl)-2-bromoethanone, (Example 1, Step 3) (4.01 g, 11.8 mmol) and 3,5-dichlorophenoxy thioacetamide (2.80 g, 11.9 mmol) in 20 mL of acetonitrile and 10 mL of ethanol was heated to reflux for 1.2 hours. The solution was diluted with methanol, cooled to 0° C. in an ice bath and a precipitate formed that was removed by filtration to provide pure 4-(4-fluorophenyl)-5-(4-methylthiophenyl)-2-((3,5-dichlorophenoxy)methyl)thiazole (4.19 g; 74%) which was used directly in the next step: mp 104.5°-105.0° C.; Mass spectrum M+H=476.

reactant | 1-(4-fluorophenyl)-2-(4-methylthiophenyl)-2-bromoethanone | FC1=CC=C(C=C1)C(C(Br)C1=CC=C(C=C1)SC)=O | C15H12BrFOS
reactant | 3,5-dichlorophenoxy thioacetamide | 11.9 mmol, 2.80 g | ClC=1C=C(OCC(=S)N)C=C(C1)Cl | C8H7Cl2NOS
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 4-(4-fluorophenyl)-5-(4-methylthiophenyl)-2-((3,5-dichlorophenoxy)methyl)thiazole | 4.19 g, 74% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)SC)COC1=CC(=CC(=C1)Cl)Cl | C23H16Cl2FNOS2
